US08710043B2
To a solution of N-((4-iodophenyl)(3-(trifluoromethyl)pyridin-2-yl)methyl)-2-methylpropane-2-sulfinamide in MeOH (5 mL) was added HCl (2.0 mL, 8.0 mmol) (4.0 M in 1,4-dioxane). The reaction was stirred at rt under N2 for 18 h. The reaction was then concentrated, and the residue was purified by reverse-phase preparative HPLC (Shimadzu) on a Phenomenex Gemini™ column (5 micron, C18, 110 Å, Axia, 100×30 mm) eluting at 45 mL/min with a linear gradient of 10% to 100% MeCN (0.1% TFA) in H2O (0.1% TFA) over 20 minutes. The product-containing fractions were combined, concentrated, dissolved in DCM (5 mL) and extracted with saturated aqueous NaHCO3 (2×5 mL). The organic layer was dried and concentrated to give (4-iodophenyl)(3-(trifluoromethyl)-pyridin-2-yl)methanamine as a clear oil.

reactant | N-((4-iodophenyl)(3-(trifluoromethyl)pyridin-2-yl)methyl)-2-methylpropane-2-sulfinamide | IC1=CC=C(C=C1)C(NS(=O)C(C)(C)C)C1=NC=CC=C1C(F)(F)F | C17H18F3IN2OS
reactant | HCl | 8.0 mmol, 4.0 M, 2.0 mL | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | (4-iodophenyl)(3-(trifluoromethyl)-pyridin-2-yl)methanamine | IC1=CC=C(C=C1)C(N)C1=NC=CC=C1C(F)(F)F | C13H10F3IN2
